US05508451
reacting 2,6-dihydroxyacetophenone with epichlorohydrin in the presence of potassium hydroxide and isopropanol to form 1,3-bis(2-acetyl-3-hydroxyphenoxy)-2-hydroxypropane;

reactant | 2,6-dihydroxyacetophenone | CC(=O)C=1C(=CC=CC1O)O | C8H8O3
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | potassium hydroxide | [OH-].[K+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1,3-bis(2-acetyl-3-hydroxyphenoxy)-2-hydroxypropane | C(C)(=O)C1=C(OCC(COC2=C(C(=CC=C2)O)C(C)=O)O)C=CC=C1O | C19H20O7
